US08957224B2
To a solution of 9-(2-ethyl-hexyl)-9H-carbazole (7.0 g, 0.025 mol) in dichloromethane (30 ml), benzoyl chloride (4.5 g, 0.0525 mol) was added and stirred for 15 minutes at room temperature. Aluminium chloride (7.3 g, 0.055 mol) was added in portions while the temperature was maintained below 30° C. The reaction mixture was allowed to stir at room temperature for 15 hours. The reaction mixture was poured into ice (150 g) and distilled water (100 ml) and diluted with dichloromethane (200 ml). The organic layer was separated and washed with a saturated solution of sodium bicarbonate (250 ml) and a saturated solution of sodium chloride (250 ml). The organic layer was dried over MgSO4, filtered and the solvent was removed under reduced pressure. The residual solid was purified on a Prochrom LC80 Column using ethyl acetate/n-hexane (20/80) as eluent. TLC shows a yellow fluorescent product with Rf-value of 0.48 in dichloromethane as eluent. Evaporation of the pooled fractions yielded 1.5 g of [9-(2-ethyl-hexyl)-9H-carbazol-3-yl]-phenyl-methanone.

reactant | 9-(2-ethyl-hexyl)-9H-carbazole | 0.025 mol, 7.0 g | C(C)C(CN1C2=CC=CC=C2C=2C=CC=CC12)CCCC | C20H25N
reactant | benzoyl chloride | 0.0525 mol, 4.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Aluminium chloride | 0.055 mol, 7.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | [9-(2-ethyl-hexyl)-9H-carbazol-3-yl]-phenyl-methanone | 1.5 g | C(C)C(CN1C2=CC=CC=C2C=2C=C(C=CC12)C(=O)C1=CC=CC=C1)CCCC | C27H29NO
